US05852017
5-(1-Pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione
12.2 mmol of 5-amino-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione were reacted with 12.2 mmol of 2,5-dimethoxytetrahydrofuran by the method of Example 5d.

reactant | 5-amino-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | 12.2 mmol | NC1=C2NC(C(NC2=CC(=C1)C(F)(F)F)=O)=O | C9H6F3N3O2
reactant | 2,5-dimethoxytetrahydrofuran | 12.2 mmol | COC1OC(CC1)OC | C6H12O3
product | 5-(1-Pyrrolyl)-7-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | N1(C=CC=C1)C1=C2NC(C(NC2=CC(=C1)C(F)(F)F)=O)=O | C13H8F3N3O2
